US08865725B2
2-chloromethyl-6-(3,4-difluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one was prepared from cytosine and 3,4-difluorophenylboronic acid using the methods as described above for the preparation of 4-amino-1-(4-fluoro-phenyl)-1H-pyrimidin-2-one and 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one.

reactant | cytosine | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | 3,4-difluorophenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | 4-amino-1-(4-fluoro-phenyl)-1H-pyrimidin-2-one | NC1=NC(N(C=C1)C1=CC=C(C=C1)F)=O | C10H8FN3O
reactant | 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one | ClCC=1N=C2N(C(N(C=C2)C2=CC=C(C=C2)F)=O)C1 | C13H9ClFN3O
product | 2-chloromethyl-6-(3,4-difluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one | ClCC=1N=C2N(C(N(C=C2)C2=CC(=C(C=C2)F)F)=O)C1 | C13H8ClF2N3O
